US05760021
III. Synthesis of Ethyl 2-Diethoxyphosphinyl-4-(N,N-dimethylamino)-2-hydroxybutanoate
A mixture of 8.05 g (0.05 mole) of ethyl 4-(N,N-dimethylamino)-2-oxobutanoate in 31 g (0.225 mole) of diethyl phosphite is stirred at 20°-30° for 3-5 days. The excess diethyl phosphite is removed on a rotary evaporator under high vacuum at a bath temperature of 50°-70° to yield the crude product as a viscous oil. This is purified by chromatography on silica gel using chloroform/methanol as eluant.

reactant | ethyl 4-(N,N-dimethylamino)-2-oxobutanoate | 0.05 mole, 8.05 g | CN(C)CCC(C(=O)OCC)=O | C8H15NO3
reactant | diethyl phosphite | 0.225 mole, 31 g | P(OCC)(OCC)[O-]
product | Ethyl 2-Diethoxyphosphinyl-4-(N,N-dimethylamino)-2-hydroxybutanoate | C(C)OP(=O)(C(C(=O)OCC)(CCN(C)C)O)OCC | C12H26NO6P
